US04628057
(3RS)-2-[(Isopropylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 6, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (3.24 g), KOH (96%, 1.75 g), carbon disulfide (0.91 ml) and isopropyl iodide (1.8 ml) are reacted and treated. The product is crystallized from chloroform to give the title compound (1.59 g) as colorless needles, m.p. 188°-190° C.

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 3.24 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | KOH | 1.75 g | [OH-].[K+]
reactant | isopropyl iodide | 1.8 ml | C(C)(C)I | C3H7I
reactant | carbon disulfide | 0.91 ml | C(=S)=S | CS2
product | (3RS)-2-[(Isopropylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.59 g | C(C)(C)SC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)O | C16H18N2O2S2
